US07655666B2
N-[6-(3-Methyl-3H-[1,2,3]triazol-4-yl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide
To a solution of 2-amino-5-(3-methyl-3H-[1,2,3]triazol-4-yl)-4-trifluoromethyl-benzoic acid methyl ester (357 mg, 1.19 mmol) in DCM (20 mL) were added Et3N (0.67 mL, 4.76 mmol) and then (CCl3O)2CO (288 mg, 0.95 mmol). The resulting mixture was stirred at r.t. for 3 h. The solvent was removed in vacuo and the residue was solubilised in THF. CH3SO2NHNH2 (170 mg, 1.54 mmol) was added and the mixture was stirred at r.t. for 2.5 h. Then, aq NaOH (1N, 1.6 mL) was added and the mixture was stirred for 30 min. The solvent was removed in vacuo and water was added. The pH was adjusted to 2-3 by addition of 1N aq HCl. The aqueous phase was extracted with AcOEt (2×). The organic phases were combined, washed with brine, dried (Na2SO4) and concentrated in vacuo to afford a yellow syrup. The yellow syrup was dissolved in DCM (2 mL). Hexanes (8 mL) was added and the resulting precipitate was filtered off, washed with hexanes and dried to afford the title compound as a grey powder (213 mg, 44%). ES-MS: m/z 405.3 [M+CH3CN+H]+, rt 4.1 min. 1H-NMR (DMSO-d6, 400 MHz) 12.16 (s, 1H), 10.40 (s, 1H), 8.11 (s, 1H), 7.77 (s, 1H), 7.68 (s, 1H), 3.79 (s, 3H), 3.16 (s, 3H).

reactant | 2-amino-5-(3-methyl-3H-[1,2,3]triazol-4-yl)-4-trifluoromethyl-benzoic acid methyl ester | 1.19 mmol, 357 mg | COC(C1=C(C=C(C(=C1)C=1N(N=NC1)C)C(F)(F)F)N)=O | C12H11F3N4O2
reactant | Et3N | 4.76 mmol, 0.67 mL | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 1.54 mmol, 170 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | NaOH | 1N, 1.6 mL | [OH-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[6-(3-Methyl-3H-[1,2,3]triazol-4-yl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 213 mg, 44% | CN1N=NC=C1C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C13H11F3N6O4S
